US08431596B2
(5-Biphenyl-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (XX-164)
A microwave vial was charged with trifluoro-methanesulfonic acid 3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenyl ester (50 mg, 0.09 mmol), benzeneboronic acid (15 mg, 0.12 mmol), tetrakis(triphenylphosphine)palladium (10 mg, 0.009 mmol), potassium phosphate (0.5M in water, 0.36 ml, 0.18 mmol) and N,N′-dimethylacetamide (1 ml). The reaction was heated to 150° C. for 10 minutes under microwave irradiation. The mixture was then filtered through a plug of silica, washed with methanol and concentrated in vacuo. The product was purified by preparatory LCMS to yield the desired product. RT: 2.96 min, MI: 476.22, Method: 2

reactant | trifluoro-methanesulfonic acid 3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenyl ester | 0.09 mmol, 50 mg | N1(CCCC1)CCOC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C=2C=C(C=CC2)OS(=O)(=O)C(F)(F)F)=N1 | C25H24F3N5O4S
reactant | benzeneboronic acid | 0.12 mmol, 15 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium phosphate | 0.18 mmol, 0.5M, 0.36 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.009 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (5-Biphenyl-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | C1(=CC(=CC=C1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2)C2=CC=CC=C2 | C30H29N5O
